US04358593
6-benzoyloxy-2-(4-benzoyloxyphenyl)-3-[4-(2-pyrrolidinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride
An acid chloride was formed from 18.1 g. of 4-(2-pyrrolidinoethoxy)benzoic acid, hydrochloride, as described in Example 1. The acid chloride was used to acylate 20 g. of 6-benzoyloxy-2-(4-benzoyloxyphenyl)benzo[b]thiophene as described above in Example 1, using 53.2 g. of aluminum chloride. A sample of the impure product, a tan foam, was recrystallized from denatured ethanol to obtain an analytical sample, m.p. 218°-222°.

reactant | 4-(2-pyrrolidinoethoxy)benzoic acid, hydrochloride | Cl.N1(CCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | 6-benzoyloxy-2-(4-benzoyloxyphenyl)benzo[b]thiophene | C(C1=CC=CC=C1)(=O)OC=1C=CC2=C(SC(=C2)C2=CC=C(C=C2)OC(C2=CC=CC=C2)=O)C1 | C28H18O4S
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | 6-benzoyloxy-2-(4-benzoyloxyphenyl)-3-[4-(2-pyrrolidinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride | Cl.C(C1=CC=CC=C1)(=O)OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCC2)=O)C2=CC=C(C=C2)OC(C2=CC=CC=C2)=O)C1 | InChI=1S/C41H33NO6S.ClH/c43-38(28-13-17-32(18-14-28)46-26-25-42-23-7-8-24-42)37-35-22-21-34(48-41(45)31-11-5-2-6-12-31)27-36(35)49-39(37)29-15-19-33(20-16-29)47-40(44)30-9-3-1-4-10-30;/h1-6,9-22,27H,7-8,23-26H2;1H
